US07501411B2
Step 2: 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-furan-2-carboxylic acid amide
4-Bromo-furan-2-carboxylic acid amide (1.2 g, 6.32 mmol), bis(pinacolato)diboron (1.76 g, 6.94 mmol), PdCl2dppf (0.154 g, 189 mol) and KOAc (1.85 g, 18.94 mmol) are suspended in dioxane (20 mL), purged with nitrogen for 5 minutes and then heated at 90° C. overnight. The solvent is removed in vacuo and the residue partitioned between ethyl acetate and water. The aqueous layer is extracted three times with ethyl acetate and the combined organic phases are washed with brine, filtered through MgSO4 and evaporated. The solid residue is triturated with hexane and dried in vacuo to afford the title compound as a solid (0.984 g, 66%).

reactant | 4-Bromo-furan-2-carboxylic acid amide | 6.32 mmol, 1.2 g | BrC=1C=C(OC1)C(=O)N | C5H4BrNO2
reactant | bis(pinacolato)diboron | 6.94 mmol, 1.76 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 18.94 mmol, 1.85 g | CC(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-furan-2-carboxylic acid amide | 0.984 g, 66% | CC1(OB(OC1(C)C)C=1C=C(OC1)C(=O)N)C | C11H16BNO4
